US08044052B2
tert-Butyl 4-(3-(5-(pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a solution of tert-butyl 4-(3-(5-(5-(trimethylsilyl)pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.7 g, 1.34 mmol) in dry THF (4 mL) was added TBAF (3.8 mL, 13.4 mmol) dropwise maintaining ice-cooled conditions. The mixture was stirred for 30 min. The reaction was concentrated and then partitioned between saturated NaHCO3 solution and CH2Cl2. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (0.6 g, 98% yield).

reactant | tert-butyl 4-(3-(5-(5-(trimethylsilyl)pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 1.34 mmol, 0.7 g | C[Si](C#CCCCOC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)(C)C | C30H40N2O4Si
reactant | TBAF | 13.4 mmol, 3.8 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(3-(5-(pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.6 g, 98% yield | C(CCC#C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C27H32N2O4
